US04939241
A mixture of benzyl O-[3(R)-acetoxy-2(S)-benzyloxycarbonylamino-1-oxobutyl]-N-trifluoroacetyl-L-serinate (1.42 g) and 10% palladium on activated carbon (300 mg) in acetic acid (50 ml) was hydrogenated under hydrogen at 40 psi at room temperature for 2 hours. The mixture was filtered with Celite (filter aid, trade mark, made by Nakarai Chemicals) and the filtrate was concentrated. The residue was diluted with water and lyophilized to give O-[3(R)-acetoxy-2(S)-amino-1-oxobutyl]-N-trifluoroacetyl-L-serine.

reactant | benzyl O-[3(R)-acetoxy-2(S)-benzyloxycarbonylamino-1-oxobutyl]-N-trifluoroacetyl-L-serinate | 1.42 g | C(C)(=O)O[C@@H]([C@@H](C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)C | C26H27F3N2O9
catalyst | palladium on activated carbon | 300 mg | [Pd] | Pd
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | O-[3(R)-acetoxy-2(S)-amino-1-oxobutyl]-N-trifluoroacetyl-L-serine | C(C)(=O)O[C@@H]([C@@H](C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)N)C | C11H15F3N2O7
